US05081255
A mixture of 7.2 g (0.0227 mole) of 2,4,6-trinitro-1,3,5-trichlorobenzene and 70 ml of methanol was stirred in an ice bath while a solution of 9.9 g (0.162 mole) of ethanolamine in 70 ml of methanol was added over 10 min. Stirring at room temperature gave a solution from which yellow solid precipitated until the mixture became too thick to stir. After standing for 2 hr., the mixture was filtered to give 7.6 g (86%) of 2,4,6-trinitro-1,3,5-tris(2-hydroxyethylamino)benzene; 1H NMR (DMSO-d6): 3.48 (m, 6H), 3.72 (m, 6H).

reactant | 2,4,6-trinitro-1,3,5-trichlorobenzene | 0.0227 mole, 7.2 g | [N+](=O)([O-])C1=C(C(=C(C(=C1Cl)[N+](=O)[O-])Cl)[N+](=O)[O-])Cl | C6Cl3N3O6
reactant | ethanolamine | 0.162 mole, 9.9 g | C(O)CN | C2H7NO
solvent | methanol | 70 ml | CO | CH4O
solvent | methanol | 70 ml | CO | CH4O
product | 2,4,6-trinitro-1,3,5-tris(2-hydroxyethylamino)benzene | 7.6 g, 86% | [N+](=O)([O-])C1=C(C(=C(C(=C1NCCO)[N+](=O)[O-])NCCO)[N+](=O)[O-])NCCO | C12H18N6O9
